US05198449
1-(2-Ethoxyethyl)-N,α-bis(4-fluorophenyl)-4-piperidinemethanamine hydrochloride hydrate (2:4:1)
A mixture of N,α-bis(4-fluorophenyl)-4-piperidinemethanamine (3.33 g, 0.011 mol), 2-bromoethyl ethyl ether (1.69 g, 0.011 mol), and sodium bicarbonate (1.68 g, 0.011 mol) was stirred under nitrogen 16 h at room temperature. The mixture was then heated at reflux for 4 h and stirred 16 h at room temperature. The reaction was concentrated to dryness and partitioned between chloroform and water. The chloroform layer was back extracted with 5% sodium hydroxide. The chloroform layer was dried (Na2SO4), filtered, and the chloroform was removed to give an oil. The oil was subjected to flash chromatography on silica gel using methanol-methylene chloride mixtures for elution. Fractions of similar purity were combined and solvents removed. A brown oil was obtained which crystallized to a brown solid. This material was converted to the hydrochloride salt and the salt was recrystallized from methanol-diethyl ether to give a white solid. The solid was dried 16 h in vacuo at 78° C. This process furnished 2.00 g (39.8%) of white crystalline solid mp 241°-243° C. (dec.).

reactant | N,α-bis(4-fluorophenyl)-4-piperidinemethanamine | 0.011 mol, 3.33 g | FC1=CC=C(C=C1)NC(C1CCNCC1)C1=CC=C(C=C1)F | C18H20F2N2
reactant | 2-bromoethyl ethyl ether | 0.011 mol, 1.69 g | C(C)OCCBr | C4H9BrO
reactant | sodium bicarbonate | 0.011 mol, 1.68 g | C([O-])(O)=O.[Na+]
reactant | methanol methylene chloride | CO.C(Cl)Cl
product | 1-(2-Ethoxyethyl)-N,α-bis(4-fluorophenyl)-4-piperidinemethanamine hydrochloride hydrate | 2.00 g, 39.8% | O.Cl.C(C)OCCN1CCC(CC1)C(NC1=CC=C(C=C1)F)C1=CC=C(C=C1)F | InChI=1S/C22H28F2N2O.ClH.H2O/c1-2-27-16-15-26-13-11-18(12-14-26)22(17-3-5-19(23)6-4-17)25-21-9-7-20(24)8-10-21;;/h3-10,18,22,25H,2,11-16H2,1H3;1H;1H2
